US07037932B2
b) 1-Benzothien-7-yl methyl ether
A solution of 1-[(2,2-diethoxyethyl)thio]-2-methoxybenzene (18 g, 70.3 mmol) in dry chlorobenzene (100 mL) was added slowly to a stirred solution of polyphosphoric acid (50 g) in dry chlorobenzene (300 mL) at 145° C. After addition was complete the resulting black solution was stirred at 155° C. for a further 18 hrs. After this time the reaction was allowed to cool to room temperature before being filtered through a pad of CELITE™, the solid cake was washed with dichloromethane (200 mL) and the combined organic extracts were concentrated in vacuo. The residue was purified by flash chromatography eluting silica gel with hexane:ethyl acetate [95:5] to give a pale yellow oil (8.7 g, 75%); δH (300 MHz, CDCl3) 7.45–7.29 (4H, m, Ar), 6.75 (1H, d, Ar), 4.00 (3H, s, OCH3).

reactant | 1-[(2,2-diethoxyethyl)thio]-2-methoxybenzene | 70.3 mmol, 18 g | C(C)OC(CSC1=C(C=CC=C1)OC)OCC | C13H20O3S
solvent | chlorobenzene | 100 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 300 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1-Benzothien-7-yl methyl ether | 8.7 g, 75% | COC1=CC=CC=2C=CSC21 | C9H8OS
